US07723330B2
Step A: Preparation of (E)-4-(benzylideneamino)-2-fluorophenol:
To a stirred solution of 4-amino-2-fluorophenol (1.27 g, 10 mmol) in 30 mL of toluene at room temperature under nitrogen in a Dean Stark apparatus was added benzaldehyde (1.01 ml, 10 mmol) followed by p-toluenesulfonic acid monohydrate (38 mg, 0.2 mmol). The mixture was heated to reflux for 4 hours. The reaction was cooled to room temperature and a solid crystallized out of the reaction mixture. The mixture was cooled to 0° C. and then filtered and the solids rinsed with toluene. The isolated tan crystals were dried under high vacuum (1.5 gm, 70% yield).

reactant | 4-amino-2-fluorophenol | 10 mmol, 1.27 g | NC1=CC(=C(C=C1)O)F | C6H6FNO
reactant | benzaldehyde | 10 mmol, 1.01 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | p-toluenesulfonic acid monohydrate | 0.2 mmol, 38 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-4-(benzylideneamino)-2-fluorophenol | 70% yield | C(/C1=CC=CC=C1)=N\C1=CC(=C(C=C1)O)F | C13H10FNO
